US04772719
Reaction of dibromoformaldoxime with 3-butyn-2-ol gives 3-bromo-5-(1-hydroxyethyl)-isoxazole which is converted by oxidation into 3-bromo-5-acetylisoxazole, an intermediate for the preparation of 1-(3-bromoisoxazol-5-yl)-2-tert.butylamine-ethanol, a compound having broncodilating activity (European Patent No. 16255) known as Broxaterol.

reactant | dibromoformaldoxime | BrC(=NO)Br | CHBr2NO
reactant | 3-butyn-2-ol | CC(C#C)O | C4H6O
product | 3-bromo-5-(1-hydroxyethyl)-isoxazole | BrC1=NOC(=C1)C(C)O | C5H6BrNO2
